US08026257B2
(±)-2-(Cyclopropylmethyl)-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-2H-indazole.
(±)-tert-Butyl 4-((1-(2-(cyclopropylmethyl)-5-methyl-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (15 mg, 0.03 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 1 mL) and stirred at room temperature for 1 h. The reaction was concentrated, loaded onto a strong cation exchange cartridge in methanol, and flushed with several volumes of methanol which were discarded. The crude secondary amine was eluted in 2 M ammonia in methanol and concentrated. The resulting residue was dissolved in acetonitrile (1 mL), cooled to 0° C., and treated with sodium cyanoborohydride (9 mg, 0.14 mmol) and formalin (79 μL). After 5 min, the reaction was treated with a few drops of acetic acid. The ice bath was removed and stirring continued for 1 h. The reaction was concentrated and purified by flash chromatography on silica gel (10% methanolic ammonia/methylene chloride) to afford 5 mg (40%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.32-7.34 (m, 2H), 7.23 (m, 1H), 6.99-7.02 (m, 2H), 6.66 (m, 1H), 4.94 (q, J=6.4 Hz, 1H), 4.22-4.24 (m, 2H), 3.34-3.41 (m, 2H), 2.57 (m, 2H), 2.29 (s, 3H), 2.21 (s, 3H), 2.09-2.25 (m, 6H), 2.01-2.04 (m, 1H), 1.44 (d, J=6.4 Hz, 3H), 0.64 (m, 2H), 0.40-0.43 (m, 2H). Mass spec.: 436.53(MH)+.

reactant | (±)-tert-Butyl 4-((1-(2-(cyclopropylmethyl)-5-methyl-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.03 mmol, 15 mg | C1(CC1)CN1N=C2C(=CC(=CC2=C1)C)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C31H40FN3O3
reactant | sodium cyanoborohydride | 0.14 mmol, 9 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 79 μL | C=O | CH2O
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (±)-2-(Cyclopropylmethyl)-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-2H-indazole | C1(CC1)CN1N=C2C(=CC(=CC2=C1)C)C(C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C27H34FN3O
